US08604211B2
Preparation of 2-chloro-5-(3-pyridyl)-[1,3,4]-thiadiazole
To a mixture of 5-pyridin-3-yl-[1,3,4]thiadiazol-2-ylamine (5.5 g, 30.9 mmol) and copper powder (0.335 g, 5.27 mmol), in a mixture of glacial acetic acid (93 mL) and concentrated hydrochloric acid (19 mL) at 0° C., was added dropwise a solution of sodium nitrite (10.67 g, 154.6 mmol) dissolved in water (13 mL). The reaction mixture was then allowed to warm to 23° C. overnight. The reaction mixture was diluted with 300 g of ice, resulting in an emulsion, and extracted with dichloromethane (3×200 mL). The emulsion was then passed through a medium porosity scintered glass funnel containing celite. The cake was stirred and washed well with chloroform. The filtrate was combined with the organic extracts. The organic phase was dried over MgSO4 and concentrated to dryness to give the title compound as a yellow solid (4.42 g, 72%): 1H NMR (300 MHz, CDCl3) δ 9.08 (br s, 1H), 8.78 (br s, 1H), 8.29 (dt, J=8, 2 Hz, 1H), 7.49 (dd, J=8, 5 Hz, 1H).

reactant | 5-pyridin-3-yl-[1,3,4]thiadiazol-2-ylamine | 30.9 mmol, 5.5 g | N1=CC(=CC=C1)C1=NN=C(S1)N | C7H6N4S
reactant | acetic acid | 93 mL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 19 mL | Cl | ClH
reactant | sodium nitrite | 154.6 mmol, 10.67 g | N(=O)[O-].[Na+]
solvent | water | 13 mL | O | H2O
catalyst | copper | 5.27 mmol, 0.335 g | [Cu] | Cu
product | 2-chloro-5-(3-pyridyl)-[1,3,4]-thiadiazole | 4.42 g, 72% | ClC=1SC(=NN1)C=1C=NC=CC1 | C7H4ClN3S
